US07148226B2
6-Cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]-4-hydroxy-3-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-5,6-dihydro-pyran-2-one
The title compound was prepared analogously to Example B(97) where 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was substituted in place of 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde and 6-Cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one was substituted in place of 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]6-cyclopentyl-dihydro-pyran-2,4-dione of that example. 1H NMR (400 MHz, DMSO-d6): δ 1.36–1.72 (m, 8H), 1.93–2.02 (m, 2H), 2.35 (s, 3H), 2.42–2.58 (m, 2H), 2.76 (d, J=16 Hz, 1H), 3.34 (s, 6H), 3.69 (s, 2H), 3.73 (s, 2H), 6.46 (dd, J=8, 2.5 Hz, 1H), 6.49 (d, J=2.5 Hz, 1H), 7.03 (d, J=8.3 Hz, 1H), 6.70 (d, J=2.5 Hz, 1H), 8.85–8.87 (m, 1H), 10.8 (s, 1H). Anal. Calcd. For C27H32N4O5: 0.1H2O: C, 63.51; H, 6.71; N, 10.97. Found: C, 63.50; H, 6.70; N, 10.87. MS (ESI): 493 (M+H)+.

reactant | 6-Methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC=1C=NC=2N(C1)N=C(N2)C=O | C7H6N4O
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
reactant | 6-Cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]-4-hydroxy-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=CC(O1)=O)O)CCC1=C(C=C(C=C1)OC)OC | C20H26O5
reactant | 6-[2-(3-Chloro-5-ethyl-4-methoxy-phenyl)-ethyl]6-cyclopentyl-dihydro-pyran-2,4-dione | ClC=1C=C(C=C(C1OC)CC)CCC1(CC(CC(O1)=O)=O)C1CCCC1 | C21H27ClO4
product | 6-Cyclopentyl-6-[2-(2,4-dimethoxy-phenyl)-ethyl]-4-hydroxy-3-(6-methyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=CC(=C2)C)=N1)O)CCC1=C(C=C(C=C1)OC)OC | C27H32N4O5
